datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"Cc1ccc2c(ccc(C)[n+:21]2[H:20])c1.c1ccc(/N=N/c2ccc([O-:10])cc2)cc1>>Cc1ccc2c(ccc(C)[n:21]2)c1.c1ccc(/N=N/c2ccc([O:10][H:20])cc2)cc1 10=20;20,21=21",
"CC[N:10](C)N.N#CC(c1ccccc1)[NH2+:21][H:20]>>CC[N+:10](C)(N)[H:20].N#CC(c1ccccc1)[NH2:21] 10=20;20,21=21",
"CC[O-:10].O=C(C1=CN=CC=C1)[CH:21](C1=CC=C(C(F)(F)F)C=C1)[H:20]>>CC[O:10][H:20].O=C(C1=CN=CC=C1)[CH-:21]C1=CC=C(C(F)(F)F)C=C1 10=20;20,21=21",
"O=C(CCc1cccs1)[O:21][H:20].[NH3+]CCCCc1cc[n:10]cc1>>O=C(CCc1cccs1)[O-:21].[NH3+]CCCCc1cc[n+:10]([H:20])cc1 10=20;20,21=21",
"CCCCN(CCCC)c1c(C)cc(-c2ccccc2)n[n+:21]1[H:20].O=P(O)(C([NH2+]Cc1ccc[nH+]c1)c1ccccc1O)[O-:10]>>CCCCN(CCCC)c1c(C)cc(-c2ccccc2)n[n:21]1.O=P(O)(C([NH2+]Cc1ccc[nH+]c1)c1ccccc1O)[O:10][H:20] 10=20;20,21=21",
"CCCC(C(CC)CO)C(CC)C(=O)[O-:10].Nc1[nH][n+:21]([H:20])c(N)c1/N=N/c1ccccc1O>>CCCC(C(CC)CO)C(CC)C(=O)[O:10][H:20].Nc1[nH][n:21]c(N)c1/N=N/c1ccccc1O 10=20;20,21=21",
"CNCCC[NH:10]C.CS(=O)(=O)C1=CC([N+](=O)[O-])=C([CH:21](C#N)[H:20])C=C1>>CNCCC[NH+:10](C)[H:20].CS(=O)(=O)C1=CC([N+](=O)[O-])=C([CH-:21]C#N)C=C1 10=20;20,21=21",
"COC(=O)c1ccc([O-:10])cc1.Cc1nnc(C)n1[O:21][H:20]>>COC(=O)c1ccc([O:10][H:20])cc1.Cc1nnc(C)n1[O-:21] 10=20;20,21=21",
"COc1ccccc1C(=O)N[C@@H]1C[C@H]2CC[C@@H](C1)[N+:21]2(Cc1ccccc1)[H:20].Cc1cc(-c2ccccc2)nn2cc(C[N:10]3CCOCC3)nc12>>COc1ccccc1C(=O)N[C@@H]1C[C@H]2CC[C@@H](C1)[N:21]2Cc1ccccc1.Cc1cc(-c2ccccc2)nn2cc(C[N+:10]3([H:20])CCOCC3)nc12 10=20;20,21=21",
"CC(C)(C)C(N)=[N+:21](O)[H:20].CNc1nc(SC)[n:10]c2[nH]ncc12>>CC(C)(C)C(N)=[N:21]O.CNc1nc(SC)[n+:10]([H:20])c2[nH]ncc12 10=20;20,21=21",
"CC[NH+](CC)Cc1c(Cl)c(Cl)cc(Cl)c1[O-:10].c1ccc2c([NH2+:21][H:20])n[nH]c2c1>>CC[NH+](CC)Cc1c(Cl)c(Cl)cc(Cl)c1[O:10][H:20].c1ccc2c([NH2:21])n[nH]c2c1 10=20;20,21=21",
"Cc1c(Cl)c[nH][n:10]1.Cc1cccc(C(=O)[O:21][H:20])c1Br>>Cc1c(Cl)c[nH][n+:10]1[H:20].Cc1cccc(C(=O)[O-:21])c1Br 10=20;20,21=21",
"C1CCC([NH:10]C2CCCCO2)OC1.O=C(C1=CC=CC=C1)[CH:21]([N+](=O)[O-])[H:20]>>C1CCC([NH+:10](C2CCCCO2)[H:20])OC1.O=C(C1=CC=CC=C1)[CH-:21][N+](=O)[O-] 10=20;20,21=21",
"CCC([NH3+])C(=O)[O:21][H:20].O=C([O-])[C@H](P)CC[C@H](P)C(=O)[O-:10]>>CCC([NH3+])C(=O)[O-:21].O=C([O-])[C@H](P)CC[C@H](P)C(=O)[O:10][H:20] 10=20;20,21=21",
"CC#CCC(=O)[O:21][H:20].CCC(=O)c1cc(C(C)=O)n[n-:10]1>>CC#CCC(=O)[O-:21].CCC(=O)c1cc(C(C)=O)n[n:10]1[H:20] 10=20;20,21=21",
"CC1(C)CC(=O)C(=N[O-:10])C(=O)C1.O=[N+]([O-])c1cccc2[nH][n+:21]([H:20])cc12>>CC1(C)CC(=O)C(=N[O:10][H:20])C(=O)C1.O=[N+]([O-])c1cccc2[nH][n:21]cc12 10=20;20,21=21",
"CC(C)Cc1cnc(CC(C)C)c([O-:10])[nH+]1.COc1cc(C)n(-c2ccccc2)[n+:21]1[H:20]>>CC(C)Cc1cnc(CC(C)C)c([O:10][H:20])[nH+]1.COc1cc(C)n(-c2ccccc2)[n:21]1 10=20;20,21=21",
"CC(C)c1cccc2ccc([O-:10])cc12.CCOCCn1c(N2CCC[N+:21](CCCCn3cc(C(=O)[O-])cn3)([H:20])CC2)nc2ccccc21>>CC(C)c1cccc2ccc([O:10][H:20])cc12.CCOCCn1c(N2CCC[N:21](CCCCn3cc(C(=O)[O-])cn3)CC2)nc2ccccc21 10=20;20,21=21",
"C[N+]1=CC=C([CH:21](S(=O)(=O)C2=CC=CC=C2)[H:20])C=C1.C[NH:10]CCCc1ccccc1>>C[N+]1=CC=C([CH-:21]S(=O)(=O)C2=CC=CC=C2)C=C1.C[NH+:10](CCCc1ccccc1)[H:20] 10=20;20,21=21",
"O=C([O-])CSc1[nH]c2cc3ccccc3cc2[n:10]1.O=[N+]([O-])c1ccc[n:21]1[H:20]>>O=C([O-])CSc1[nH]c2cc3ccccc3cc2[n+:10]1[H:20].O=[N+]([O-])c1ccc[n-:21]1 10=20;20,21=21",
"[H:20][NH2+:21]CC(=O)N.[CH-:10]1C2=C(C=CC=C2)SC1=O>>[H:20][CH:10]1C2=C(C=CC=C2)SC1=O.C(C(=O)N)[NH2:21] 10=20;20,21=21",
"CCC[O-:10].O=C(C1=CN=CC=C1)[CH:21](C1=CC=C(Cl)C=C1)[H:20]>>CCC[O:10][H:20].O=C(C1=CN=CC=C1)[CH-:21]C1=CC=C(Cl)C=C1 10=20;20,21=21",
"Nc1nc(N(CCO)CCO)nc(N(CCO)CCO)[n+:21]1[H:20].O=S(=O)([O-])c1c([O-:10])ccc2cn[nH]c12>>Nc1nc(N(CCO)CCO)nc(N(CCO)CCO)[n:21]1.O=S(=O)([O-])c1c([O:10][H:20])ccc2cn[nH]c12 10=20;20,21=21",
"CC(=Nc1ccccc1O)c1ccccc1[O:21][H:20].CC(C)(C(N)=O)S(=O)(=O)[NH-:10]>>CC(=Nc1ccccc1O)c1ccccc1[O-:21].CC(C)(C(N)=O)S(=O)(=O)[NH:10][H:20] 10=20;20,21=21",
"CC(=S)[N:21](c1ccc([N+](=O)[O-])cc1)[H:20].CCCCN/C(C)=[N:10]\N(C)C>>CC(=S)[N-:21]c1ccc([N+](=O)[O-])cc1.CCCCN/C(C)=[N+:10](\N(C)C)[H:20] 10=20;20,21=21",
"CC(C)C1=CC(=O)C([O:21][H:20])=C(Br)C=C1.CCc1cc2c(cc1[O-:10])OC(=O)C=C2C>>CC(C)C1=CC(=O)C([O-:21])=C(Br)C=C1.CCc1cc2c(cc1[O:10][H:20])OC(=O)C=C2C 10=20;20,21=21",
"CC(C)[O-:10].O=C(C1=CN=CC=C1)[CH:21](C1=CC=CC=C1)[H:20]>>CC(C)[O:10][H:20].O=C(C1=CN=CC=C1)[CH-:21]C1=CC=CC=C1 10=20;20,21=21",
"CCCCCCCCC[NH+:21](Cc1ccc(C)cc1)[H:20].[O-]c1ccc(Cl)cc1C[N:10]1CCCCC1>>CCCCCCCCC[NH:21]Cc1ccc(C)cc1.[O-]c1ccc(Cl)cc1C[N+:10]1([H:20])CCCCC1 10=20;20,21=21",
"COC(=O)C(CCONC(N)=O)[NH2+:21][H:20].O=C1Cc2c1cc([N+](=O)[O-])c([O-:10])c2Br>>COC(=O)C(CCONC(N)=O)[NH2:21].O=C1Cc2c1cc([N+](=O)[O-])c([O:10][H:20])c2Br 10=20;20,21=21",
"CCc1c(C)n[n+:21]([H:20])c(C)c1C.O=Cc1ccccc1C(=O)[O-:10]>>CCc1c(C)n[n:21]c(C)c1C.O=Cc1ccccc1C(=O)[O:10][H:20] 10=20;20,21=21",
"CCC[N:10](CCC)c1ccc([N+](=O)[O-])cc1.O=[N+]([O-])c1ccc([S:21][H:20])c([N+](=O)[O-])c1>>CCC[N+:10](CCC)(c1ccc([N+](=O)[O-])cc1)[H:20].O=[N+]([O-])c1ccc([S-:21])c([N+](=O)[O-])c1 10=20;20,21=21",
"C#CC(C)(C)[NH:10]C(C)(C)C#C.O=C(c1ccccc1)N(c1ccccc1)[O:21][H:20]>>C#CC(C)(C)[NH+:10](C(C)(C)C#C)[H:20].O=C(c1ccccc1)N(c1ccccc1)[O-:21] 10=20;20,21=21",
